US05204326
Preparation of Boc-Arg(Tos)-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2
By using 8.35 g of Boc-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 and 3.30 g of Boc-Arg(Tos)-OH, and the same procedure as in Reference 15 was repeated to obtain 7.60 g (yield: 70.5%) of the above-mentioned objective product. Melting point: 120°-132° C.

reactant | Boc-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 8.35 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C61H80N10O15
reactant | Boc-Arg(Tos)-OH | 3.30 g | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OC(C)(C)C | C18H28N4O6S
product | Boc-Arg(Tos)-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 7.60 g, yield: 70.5% | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C74H98N14O18S
